US04272437
To a solution of ethyl 2-azidoethoxyacetate (6.56 g, 37.9 mmol) in MeOH (80 ml) was added 1N aq. NaOH (80 ml) and the mixture was stirred at room temperature overnight (17 h). After removing the insoluble material, the methanol was evaporated in vacuo and this was saturated with sodium chloride and washed with ether (30 ml×3). The aqueous layer acidified with 3N HCl (30 ml) was extracted with ether (40 ml×4). The ether extracts were washed with brine, dried (MgSO4) and evaporated to yield 4.25 g (29.3 mmol, 77.3%) of 2-azidoethoxyacetic acid as a colourless oil: 1Hmr (CDCl3) δ: 3.3-4.0 (4H, m, --OCH2CH2N3), 4.22 (2H, s, --COCH2O--), 9.52 ppm (1H, s, --CO2H, exchanged with D2O); ir (neat) νmax : 2600-3300 (br,-- CO2H) 2100 (azide) and 1740 cm-1C=O--CO2H). This material was used in the next step without further purification.

reactant | ethyl 2-azidoethoxyacetate | 37.9 mmol, 6.56 g | N(=[N+]=[N-])CCOCC(=O)OCC | C6H11N3O3
reactant | NaOH | 1N, 80 ml | [OH-].[Na+]
solvent | MeOH | 80 ml | CO | CH4O
product | 2-azidoethoxyacetic acid | 29.3 mmol, 4.25 g, 77.3% | N(=[N+]=[N-])CCOCC(=O)O | C4H7N3O3
